US05654316
1-[3-(3,4-dichlorophenyl)-5-(4-hydroxy-4-phenyl-1-piperidinyl)-1-oxopentyl]-1,2,3,4-tetrahydroquinoline
1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1,2,3,4-tetrahydroquinoline (900 mg), in MeOH/THF (1:1, 20 mL) was treated sequentially with molecular sieves 3A (767 mg), 4-phenyl-4-hydroxypiperidine HCl (767 mg) and NaBH3CN (150 mg). The resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was with quenched with water (20 mL) and diluted with CH2Cl2 (50 mL). The organic layer was separated and the aqueous layer extracted with CH2Cl2 (3×50 mL) The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to give the crude oil. Silica gel chromatography eluting with 1-2% MeOH/CH2Cl2 gave the title compound (750 mg). Mass spectrum (FAB): 537.2081.

reactant | 1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1,2,3,4-tetrahydroquinoline | 900 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1CCCC2=CC=CC=C12)CC=O | C20H19Cl2NO2
reactant | 4-phenyl-4-hydroxypiperidine HCl | 767 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)O
reactant | NaBH3CN | 150 mg | [BH3-]C#N.[Na+]
solvent | MeOH THF | 20 mL | CO.C1CCOC1
product | 1-[3-(3,4-dichlorophenyl)-5-(4-hydroxy-4-phenyl-1-piperidinyl)-1-oxopentyl]-1,2,3,4-tetrahydroquinoline | 750 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1CCCC2=CC=CC=C12)CCN1CCC(CC1)(C1=CC=CC=C1)O | C31H34Cl2N2O2
